US05206240
3,4-Dihydro-6-methoxy-1'-[2-(1,3-dimethylpyrimidine-2,4(1H,3H)-dione-6-yl)ethylamino]spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one
A suspension of 3,4-dihydro-6-methoxyspiro[(2H)-1-benzopyran-2,4'-piperidin]-4-one (0.284 g, 1 mmol) and sodium bicarbonate (0.42 g, 5 mmol) in acetonitrile was heated at reflux for 1 hour, 2-chloro ethylamine hydrochloride (0.116 g, 1 mmol) was added the solution was heated at reflux for 17 hours, 6-chloro-1,3-dimethyluracil (0.175 g, 1 mmol) and sodium bicarbonate (0.16 g, 2 mmol) were added. Refluxing was continued for 28 hours. After cooling, the reaction mixture was concentrated in vacuo to dryness. The residue was partitioned between chloroform and water. The chloroform solution was washed with water and dried over sodium sulfate. The resulting residue was chromatographed through a pressure column (silica gel) eluting with 5% methanol/chloroform to give the title compound (45 mg, 10.5% yield), mp 235°-238° C. dec.

reactant | 3,4-dihydro-6-methoxyspiro[(2H)-1-benzopyran-2,4'-piperidin]-4-one | 1 mmol, 0.284 g | COC=1C=CC2=C(C(CC3(CCNCC3)O2)=O)C1 | C14H17NO3
reactant | sodium bicarbonate | 5 mmol, 0.42 g | C([O-])(O)=O.[Na+]
reactant | 2-chloro ethylamine hydrochloride | 1 mmol, 0.116 g | Cl.ClCCN
reactant | 6-chloro-1,3-dimethyluracil | 1 mmol, 0.175 g | ClC1=CC(N(C(N1C)=O)C)=O | C6H7ClN2O2
reactant | sodium bicarbonate | 2 mmol, 0.16 g | C([O-])(O)=O.[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 3,4-Dihydro-6-methoxy-1'-[2-(1,3-dimethylpyrimidine-2,4(1H,3H)-dione-6-yl)ethylamino]spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one | 45 mg, 10.5% yield | COC=1C=CC2=C(C(CC3(CCN(CC3)NCCC3=CC(N(C(N3C)=O)C)=O)O2)=O)C1 | C22H28N4O5
